US07163947B2
A mixture of 7-benzyloxyquinolin-4-ol (71.47 g, 0.2844 mol) and propionic acid (700 mL) was heated to 125° C. with vigorous stirring. Nitric acid (23.11 mL of 16 M) was slowly added over a period of 30 minutes while maintaining the reaction temperature between 121° C. and 125° C. After the addition, the reaction was stirred at 125° C. for 1 hour then allowed to cool to ambient temperature. The resulting solid was isolated by filtration, washed with water, and dried in an oven for 1.5 days to provide 69.13 g of 7-benzyloxy-3-nitroquinolin-4-ol as a grayish powder.

reactant | 7-benzyloxyquinolin-4-ol | 0.2844 mol, 71.47 g | C(C1=CC=CC=C1)OC1=CC=C2C(=CC=NC2=C1)O | C16H13NO2
reactant | Nitric acid | 16 M, 23.11 mL | [N+](=O)(O)[O-] | HNO3
solvent | propionic acid | 700 mL | C(CC)(=O)O | C3H6O2
product | 7-benzyloxy-3-nitroquinolin-4-ol | 69.13 g | C(C1=CC=CC=C1)OC1=CC=C2C(=C(C=NC2=C1)[N+](=O)[O-])O | C16H12N2O4
